US08212045B2
To a solution of (S)-N-(5-(3-methylpyridin-2-ylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (0.565 g, 1.03 mmol) in ethanol (25 mL) was added an aqueous solution of 6N HCl (2 mL). The reaction was heated at 80° C. for 2 hours, cooled to ambient temperature, stirred for 30 minutes, then cooled at 0° C. for an hour. The reaction was filtered, washed with cold ethanol, hexanes, and dried to afford (S)-1-(5-(5-(3-methylpyridin-2-ylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)ethane-1,2-diol hydrochloride (0.450 g, 0.891 mmol, 86.5% yield) as white crystals. Mass Spectrum (apci) m/z=469.1 (M+H—HCl).

reactant | (S)-N-(5-(3-methylpyridin-2-ylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 1.03 mmol, 0.565 g | CC=1C(=NC=CC1)SC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2)OC=2C(=NC=CC2)C | C27H28N6O3S2
reactant | HCl | 6N, 2 mL | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | (S)-1-(5-(5-(3-methylpyridin-2-ylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)ethane-1,2-diol hydrochloride | 0.891 mmol, 0.450 g, 86.5% yield | Cl.CC=1C(=NC=CC1)SC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H](CO)O)OC=1C(=NC=CC1)C | InChI=1S/C21H20N6O3S2.ClH/c1-12-5-3-8-23-20(12)31-14-9-17(30-16-6-4-7-22-13(16)2)19(24-10-14)26-21-25-18(27-32-21)15(29)11-28;/h3-10,15,28-29H,11H2,1-2H3,(H,24,25,26,27);1H/t15-;/m1./s1
